US08957062B2
Preparation of 1-methylcyclopropyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(1H-tetrazol-1 yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate
A solution of benzyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(1H-tetrazol-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate (920 mg, 1.99 mmol) in 5 ml of EtOH was treated with 200 mg of Pd/C under a balloon of H2 gas for 3.5 hours. The suspension was filtered through a plug of celite and the filtrate was concentrated to afford the title compound as a crude product to be used for the next step. LC/MS (m/z): 329 (M+H)+.

reactant | benzyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(1H-tetrazol-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate | 1.99 mmol, 920 mg | CC=1C(=NC=C(C1)N1N=NN=C1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C25H30N6O3
reactant | EtOH | 5 ml | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 1-methylcyclopropyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(1H-tetrazol-1 yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate | CC=1C(=NC=C(C1)N1N=NN=C1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OC1(CC1)C | C22H30N6O3
